US05691349
A solution of t-butyl-dimethylsilyl chloride (3.0 g) in dichloromethane (10 ml) was added dropwise to a stirred solution of 4-iodophenol (4.4 g) and imidazole (1.4 g) in dichloromethane (90 ml) whilst maintaining the temperature between 10° C. and 5° C. After the addition was complete, the reaction mixture was stirred for a further 4 hours at ambient temperature. The reaction mixture was washed with water, dried (MgSO4), and evaporated to give 4-(t-butyldimethylsilyloxy)iodobenzene as a colourless oil (6.4 g) NMR(DMSO-d6): 0.0(6H,s), 0.8(9H,s), 6.49-6.58(2H,d), 7.35-7.44(2H,d); m/z=334 (M).

reactant | t-butyl-dimethylsilyl chloride | 3.0 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 4-iodophenol | 4.4 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | imidazole | 1.4 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | 4-(t-butyldimethylsilyloxy)iodobenzene | 6.4 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)I | C12H19IOSi
